US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-3-methoxybenzene-sulfonamide hydrochloride (Scheme 3)
The compound was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide and 3-methoxybenzenesulfonylchloride (94 mg, 0.455 mmol) to give 160 mg as a purple solid. M+1 455.2 Calcd 455.13.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C | C17H28N4O4S
reactant | 3-methoxybenzenesulfonylchloride | 0.455 mmol, 94 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
product | N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-3-methoxybenzene-sulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC(=CC=C1)OC)NS(=O)(=O)C | InChI=1S/C19H26N4O5S2.ClH/c1-28-16-5-3-6-17(14-16)30(26,27)22-18-8-7-15(13-19(18)21-29(2,24)25)23-11-4-9-20-10-12-23;/h3,5-8,13-14,20-22H,4,9-12H2,1-2H3;1H
